US07157577B2
A mixture of 5-aminolevulinic acid hydrochloride (1.68 g, 10 mmol), 5,5-dimethyl-1,3-cyclohexandione (1.4 g, 10 mmol) and sodium acetate (1.64 g, 20 mmol) in water (10 mL) was heated to at 110° C. for 4 hours and then cooled. The resulting solid was collected by vacuum filtration, washed with 30% ethanol in water and dried under vacuum to give 1.6 g (68% yield) of 3-(6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid. 1H-NMR (360 MHz, dimethylsulfoxide-d6) δ 11.89 (br s, 1H, COOH), 10.94 (br s, 1H, NH), 6.45 (d, 1H), 2.76 (t, 2H, CH2), 2.57 (s, 2H, CH2), 2.44 (t, 2H, CH2), 2.16 (s, 2H, CH2), 0.99 (s, 6H, 2×CH3). MS m/z 235 [M+].

reactant | 5-aminolevulinic acid hydrochloride | 10 mmol, 1.68 g | Cl.NCC(CCC(=O)O)=O
reactant | 5,5-dimethyl-1,3-cyclohexandione | 10 mmol, 1.4 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | sodium acetate | 20 mmol, 1.64 g | C(C)(=O)[O-].[Na+]
solvent | water | 10 mL | O | H2O
product | 3-(6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid | 1.6 g, 68% yield | CC1(CC(C=2C(=CNC2C1)CCC(=O)O)=O)C | C13H17NO3
